US09326516B2
Preparation of 3-(4-nitrophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole (C1)
A mixture of 3-(4-nitrophenyl)-1H-1,2,4-triazole (20.0 g, 105 mmol), 1-bromo-4-(trifluoromethyl)benzene (28.0 g, 124 mmol), cesium carbonate (68.4 g, 210 mmol), copper(I) iodide (2.59 g, 13.6 mmol), and 8-hydroxyquinoline (1.80 g, 12.4 mmol) in N,N′-dimethylformamide/water (9:1, 142 mL) under nitrogen was heated to 140° C. for 18 hours. The reaction was cooled to room temperature (about 22° C.) and quenched with ammonium hydroxide (10 mL). The reaction mixture was extracted with ethyl acetate. The organic layer was separated and washed with water (3×100 mL) and brine (300 mL). The organic layer was separated and dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography (silica gel) using 0-65% ethyl acetate/petroleum ether as eluent provided the title compound as a white solid (22.0 g, 63%): 1H NMR (300 MHz, CDCl3) δ 8.72 (s, 1H), 8.42-8.34 (m, 4H), 7.94 (d, J=8.7 Hz, 2H), 7.84 (d, J=8.5 Hz, 2H); ESIMS m/z 335 ([M+H]+).

reactant | 3-(4-nitrophenyl)-1H-1,2,4-triazole | 105 mmol, 20.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NNC=N1 | C8H6N4O2
reactant | 1-bromo-4-(trifluoromethyl)benzene | 124 mmol, 28.0 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | cesium carbonate | 210 mmol, 68.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 8-hydroxyquinoline | 12.4 mmol, 1.80 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
solvent | N,N′-dimethylformamide water | 142 mL | CN(C)C=O.O
catalyst | copper(I) iodide | 13.6 mmol, 2.59 g | [Cu]I
product | 3-(4-nitrophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | 22.0 g, 63% | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C15H9F3N4O2
